US05624950
To a solution of 9 g of (3aRS,7SR,7aRS)-2-benzyl-7-methyl-7-phenyl-4-perhydroisoindolone in 100 cm3 of 1,2-dichloroethane are added, at room temperature, 2.84 cm3 of vinyl chloroformate, followed by heating for 2 hours at reflux. The solution is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is purified by chromatography on a Column of silica gel (particle size 0.04-0.06 mm, diameter 4 cm, height 23 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (90/10 by volume) and collecting 100 cm3 fractions. Fractions 17 to 34 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 4.27 g of (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-vinyloxycarbonyl-4-perhydroisoindolone are obtained in the form of a yellow oil.

reactant | (3aRS,7SR,7aRS)-2-benzyl-7-methyl-7-phenyl-4-perhydroisoindolone | 9 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C | C22H25NO
reactant | vinyl chloroformate | 2.84 cm3 | ClC(=O)OC=C | C3H3ClO2
solvent | 1,2-dichloroethane | 100 cm3 | ClCCCl | C2H4Cl2
product | (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-vinyloxycarbonyl-4-perhydroisoindolone | 4.27 g | CC1(CCC(C2CN(CC12)C(=O)OC=C)=O)C1=CC=CC=C1 | C18H21NO3
